US08895566B2
Using the procedure from Example 8, Step 5, using (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine and (4-chlorophenyl)(5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)methanamine bishydrochloride (100 mg, 0.30 mmol) to afford (4-chlorophenyl)(7-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)methanamine bishydrochloride (75 mg, 0.19 mmol, 64%): LCMS APCI+(M+H+): 396 (60%), 398 (20%), rt 2.48 min. HPLC purity at 254 nm>99%, rt=1.68 min. 1H NMR (400 MHz, d6-DMSO) □ 9.51 (s, 3H), 8.85 (d, J=9.4 Hz, 1H), 7.61 (d, J=7.0 Hz, 2H), 7.55 (d, J=7.8 Hz, 2H), 6.08 (br d, J=9.0 Hz, 1H), 5.42 (dd, J=26 Hz, 16 Hz, 1H), 5.19 (dd, J=21 Hz, 18 Hz, 1H), 4.55 (m, 1H), 4.29 (m, 1H), 3.79 (m, 1H), 3.14 (m, 1H), 2.96 (m, 1H), 2.32 (m, 1H), 1.82 (m, 1H), 1.15 (t, J=6.8 Hz, 2H), 1.04 (d, J=6.2 Hz, 3H).

reactant | (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | ClC=1C2=C(N=CN1)CC[C@H]2C | C8H9ClN2
reactant | (4-chlorophenyl)(5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)methanamine bishydrochloride | 0.30 mmol, 100 mg | Cl.Cl.ClC1=CC=C(C=C1)C(N)C1=NN=C2N1CCNC2
product | (4-chlorophenyl)(7-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl)methanamine bishydrochloride | 0.19 mmol, 75 mg, 64% | Cl.Cl.ClC1=CC=C(C=C1)C(N)C1=NN=C2N1CCN(C2)C=2C1=C(N=CN2)CC[C@H]1C | InChI=1S/C20H22ClN7.2ClH/c1-12-2-7-15-17(12)19(24-11-23-15)27-8-9-28-16(10-27)25-26-20(28)18(22)13-3-5-14(21)6-4-13;;/h3-6,11-12,18H,2,7-10,22H2,1H3;2*1H/t12-,18?;;/m1../s1
